US05872118
h) Preparation of (E)-2-(4-chloro-1-indanylidene)acetic Acid
Trifluoroacetic acid (25.1 mL) was added to a stirred, chilled (ice-methanol bath) solution of 2-(4-chloro-1-hydroxy-1-indanyl)acetic acid (10.4 g, 0.05 mol) in dichloromethane (230 mL). After 30 min, the mixture was concentrated in vacuo. Dichloromethane was added to the residue and the mixture was concentrated in vacuo to give 6.5 g (68%) of a white solid. Recrystallization of 0.98 g from acetonitrile: 2-propanol mixtures gave 0.62 g of a white solid: m.p., 233°-234° C.; NMR (DMSO-d6): d12.15 (br, 1H, COOH), 7.30-7.81 (m, 3H, Ar), 6.41 (s, 1H, =CH), 3.00-3.06, 3.19-3.22 (2m's, 4H, 2×CH2), steady-state nOe; irradiation at 6.41 d, observed 19.7% nOe at 7.79.

reactant | Trifluoroacetic acid | 25.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-chloro-1-hydroxy-1-indanyl)acetic acid | 0.05 mol, 10.4 g | ClC1=C2CCC(C2=CC=C1)(O)CC(=O)O | C11H11ClO3
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-1-indanylidene)acetic Acid | 6.5 g, 68% | ClC1=C2CC/C(/C2=CC=C1)=C\C(=O)O | C11H9ClO2
